US07012089B2
9-Chloro-4-methyl-3,4,5,6-tetrahydro-2H-benzo[e][1,4]diazocin-1-ylamine
To a solution of 9-chloro-4-methyl-1,2,3,4,5,6-hexahydro-benzo[e][1,4]diazocine (6.0 g, 0.023 mole approximately) in hydrochloric acid (1 N, 200 mL) cooled to 0° C. was added sodium nitrite (4.0 g, 0.058 mole) in water (20 mL). The mixture was stirred for 1 hour and treated with sodium bicarbonate, extracted with ethyl acetate (3×100 mL). The combined organic layers were washed with saturated sodium chloride (200 mL), dried and concentrated to a light brown oil. The oil was redissolved in THF (50 mL) and added to a suspension of lithium aluminum hydride (4.0 g, 0.10 mole) in THF (100 mL) and the mixture refluxed for 3 hours. The excess hydride was destroyed at 0° C. by the cautious addition of ethyl acetate. The mixture was washed with aqueous potassium sodium tartrate (10% v/w, 200 mL) and saturated aqueous sodium chloride (150 mL), dried (sodium sulfate) and concentrated. Evaporation in vacuo provided 4.9 g of the title compound as a light yellow oil. This oil was used for indole formation without further purification. 1H NMR (CDCl3): 7.25 δ (s, 1H); 7.00 δ (d, 2H); 3.00 δ (m, 2H); 2.90 δ (m, 2H); 2.78 δ (m, 2H); 2.40 δ (s, 3H); 2.30 δ (t, 2H).

reactant | 9-chloro-4-methyl-1,2,3,4,5,6-hexahydro-benzo[e][1,4]diazocine | 0.023 mole approximately, 6.0 g | ClC=1C=CC2=C(NCCN(CC2)C)C1 | C11H15ClN2
reactant | sodium nitrite | 0.058 mole, 4.0 g | N(=O)[O-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | lithium aluminum hydride | 0.10 mole, 4.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | hydrochloric acid | 1 N, 200 mL | Cl | ClH
solvent | water | 20 mL | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 9-Chloro-4-methyl-3,4,5,6-tetrahydro-2H-benzo[e][1,4]diazocin-1-ylamine | 4.9 g | ClC=1C=CC2=C(N(CCN(CC2)C)N)C1 | C11H16ClN3
